US05081145
3-(1-p-Chlorobenzyl-3-methyl-5-methoxyindol-2-yl)-2,2-dimethylpropanoic acid
Following the method of Example 2, but using 1-[(4-chlorophenyl)methyl]-1-(4-methoxyphenyl)hydrazine hydrochloride and methyl 2,2-dimethyl-4-oxohexanoate as the starting materials and tert-butanol as the solvent, the title compound was prepared.

reactant | 1-[(4-chlorophenyl)methyl]-1-(4-methoxyphenyl)hydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)CN(N)C1=CC=C(C=C1)OC
reactant | methyl 2,2-dimethyl-4-oxohexanoate | CC(C(=O)OC)(CC(CC)=O)C | C9H16O3
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 3-(1-p-Chlorobenzyl-3-methyl-5-methoxyindol-2-yl)-2,2-dimethylpropanoic acid | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OC)C)CC(C(=O)O)(C)C)C=C1 | C22H24ClNO3
